US07199147B2
N-methyl-N-nitrosourethane (1.39 ml, 10.8 mmol) was added dropwise to a solution of 1-benzyl-4-piperidone (2.0 g, 10.6 mmol) in methanol (4 ml) at −15° C. over a period of 30 minutes while maintaining the temperature at −5° C. or lower. During the addition, barium oxide (65 mg, 0.423 mmol) was added thereto in small portions. The resulting mixture was stirred overnight at −15° C. and then filtered, and the filtrate was distilled under reduced pressure to remove the solvent and diethyl ether was added to the residue. The insoluble material was filtered off and a saturated aqueous sodium hydrogencarbonate solution was added to the filtrate, followed by extraction with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain 1-benzyl-4-azepanone (662 mg, 31%).

reactant | N-methyl-N-nitrosourethane | 10.8 mmol, 1.39 ml | CN(C(=O)OCC)N=O | C4H8N2O3
reactant | 1-benzyl-4-piperidone | 10.6 mmol, 2.0 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | barium oxide | 0.423 mmol, 65 mg | [O-2].[Ba+2]
solvent | methanol | 4 ml | CO | CH4O
product | 1-benzyl-4-azepanone | 662 mg, 31% | C(C1=CC=CC=C1)N1CCC(CCC1)=O | C13H17NO
